US07166598B2
A mixture of (2S)-2-(methoxymethyl)morpholine hydrochloride (0.5 g), 1-bromo-3-chloropropane (1.47 ml) and potassium carbonate (2.06 g) in N,N-dimethylformamide (6 ml) was stirred at room temperature for 1 hour. After ethyl acetate and water were added to the mixture, the organic layer was separated, washed with water twice, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate as an eluent. The fractions containing the objective compound were collected and evaporated under reduced pressure. The resulting oil was treated with 4N hydrogen chloride in ethyl acetate to give (2S)-4-(3-chloropropyl)-2-(methoxymethyl)morpholine hydrochloride (0.44 g).

reactant | (2S)-2-(methoxymethyl)morpholine hydrochloride | 0.5 g | Cl.COC[C@@H]1CNCCO1
reactant | 1-bromo-3-chloropropane | 1.47 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 2.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2S)-4-(3-chloropropyl)-2-(methoxymethyl)morpholine hydrochloride | 0.44 g | Cl.ClCCCN1C[C@H](OCC1)COC | InChI=1S/C9H18ClNO2.ClH/c1-12-8-9-7-11(4-2-3-10)5-6-13-9;/h9H,2-8H2,1H3;1H/t9-;/m0./s1
